US07652049B2
To a solution of tert-butyl [(1R)-2-hydroxy-1-phenylethyl]carbamate (200 mg, 0.844 mmol) in CH2Cl2 (20 mL) at 0° C. was added Dess-Martin periodinane (447 mg, 1.05 mmol). The reaction was stirred at 0° C. for 15 minutes and then at room temperature for 30 minutes. The reaction was then diluted with EtOAc (75 mL) and washed rapidly with 10% K2CO3 (2×30 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. Purification of the residue on a short column of silica gel with 50% EtOAc/hexanes gave tert-butyl [(1R)-2-oxo-1-phenylethyl]carbamate. 1H NMR (CDCl3, 600 MHz) (a major and a minor conformer observed). Data for major conformer given) δ 9.53 (s, 1H), 7.29-7.40 (m, 5H), 5.80 (bs, 1H), 5.31 (m, 1H), 1.42 (s, 9H). This material was used immediately in the following reaction.

reactant | tert-butyl [(1R)-2-hydroxy-1-phenylethyl]carbamate | 0.844 mmol, 200 mg | OC[C@@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C13H19NO3
reactant | Dess-Martin periodinane | 1.05 mmol, 447 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | tert-butyl [(1R)-2-oxo-1-phenylethyl]carbamate | O=C[C@@H](C1=CC=CC=C1)NC(OC(C)(C)C)=O | C13H17NO3
